US07601716B2
5-(1-Benzyl-2-oxo-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl)pyridine-2-carbonitrile
1-Benzyl-7-iodo-3,4-dihydro-1H-pyrido[2,3-b]pyrazin-2-one (196 mg) was reacted with 2-cyanopyridine-5-boronic acid pinacol ester as in General Procedure 4B to give the title compound as a yellow solid (46% yield). M.p.>200° C., LCMS: m/z=342.20 (M+H+), 1H-NMR (DMSO-d6, 400 MHz) δ 4.23 (2H, s), 5.27 (2H, s), 7.23 (1H, m), 7.32 (4H, m), 7.49 (2H, m), 8.03 (1H, d, J=8.3 Hz), 8.18 (2H, m), 8.95 (1H, d, J=2.0 Hz).

reactant | 1-Benzyl-7-iodo-3,4-dihydro-1H-pyrido[2,3-b]pyrazin-2-one | 196 mg | C(C1=CC=CC=C1)N1C2=C(NCC1=O)N=CC(=C2)I | C14H12IN3O
reactant | 2-cyanopyridine-5-boronic acid pinacol ester | C(#N)C1=NC=C(C=C1)B1OC(C)(C)C(C)(C)O1 | C12H15BN2O2
product | 5-(1-Benzyl-2-oxo-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl)pyridine-2-carbonitrile | 46% yield | C(C1=CC=CC=C1)N1C2=C(NCC1=O)N=CC(=C2)C=2C=CC(=NC2)C#N | C20H15N5O
